US07915300B2
3-Methyl-5-(4-methyl-morpholin-2-ylmethoxy)-benzofuran-2-carboxylic acid
Ethyl 3-methyl-5-(4-methyl-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate (0.12 mmol) was dissolved in 300 μl of tetrahydrofuran. Then 300 μl of a 1.0 M solution of lithium hydroxide were added and the mixture stirred at room temperature for 3 hours. The tetrahydrofuran was removed under vacuo and the water eliminated by lyophilisation to yield the tilted compound as a white solid: m/z=304 in MS ES−.

reactant | Ethyl 3-methyl-5-(4-methyl-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate | 0.12 mmol | CC1=C(OC2=C1C=C(C=C2)OCC2CN(CCO2)C)C(=O)OCC | C18H23NO5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | tetrahydrofuran | 300 μl | O1CCCC1 | C4H8O
product | 3-Methyl-5-(4-methyl-morpholin-2-ylmethoxy)-benzofuran-2-carboxylic acid | CC1=C(OC2=C1C=C(C=C2)OCC2CN(CCO2)C)C(=O)O | C16H19NO5
